US06020336
Step a: 1-(N-tert-butyloxycarbonyl-pyrrolidin-3-ylmethyl)-6-nitro-2,3-dihydroindole
91.5 mmol (19.4 g) of solid sodium triacetoxyborohydride are added slowly, at 20° C., to a solution of 60.8 mmol (12.1 g) of 1-(tert-butyloxycarbonyl)-3-formylpyrrolidine, 60.8 mmol (10 g) of 6-nitroindoline and 60.8 mmol (3.65 g) of acetic acid in 100 ml of dichloromethane. After 2 hours' stirring, the reaction mixture is diluted with ethyl acetate. The organic phase is washed with water until pH=8, and the aqueous phase is then extracted with dichloromethane. After removal of the solvent by evaporation, the expected product is obtained.

reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-(tert-butyloxycarbonyl)-3-formylpyrrolidine | 60.8 mmol, 12.1 g | C(C)(C)(C)OC(=O)N1CC(CC1)C=O | C10H17NO3
reactant | 6-nitroindoline | 60.8 mmol, 10 g | [N+](=O)([O-])C1=CC=C2CCNC2=C1 | C8H8N2O2
reactant | acetic acid | 60.8 mmol, 3.65 g | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(N-tert-butyloxycarbonyl-pyrrolidin-3-ylmethyl)-6-nitro-2,3-dihydroindole | C(C)(C)(C)OC(=O)N1CC(CC1)CN1CCC2=CC=C(C=C12)[N+](=O)[O-] | C18H25N3O4
